US09227985B2
N-Methyl-5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxamide (25 mg, 0.080 mmol) was dissolved in methanol (5 mL) in a Parr bottle and degassed with nitrogen, followed by addition of palladium (10% on carbon) (5 mg, 0.05 mmol). The reaction vessel was charged to 50 PSI hydrogen and shaken for 2 h. The reaction mixture was filtered and concentrated in vacuo to give crude 5-amino-N-methyl-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxamide (0.005 g. 100%). LCMS calculated for C15H17N4O2 (M+H)+: m/z=285.1. found: 285.0.

reactant | N-Methyl-5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxamide | 0.080 mmol, 25 mg | CNC(=O)C1(COC2=C(N1)C(=CC=C2)[N+](=O)[O-])C2=NC=CC=C2 | C15H14N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium | 0.05 mmol, 5 mg | [Pd] | Pd
product | 5-amino-N-methyl-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxamide | 0.005 g, 100% | NC1=CC=CC2=C1NC(CO2)(C(=O)NC)C2=NC=CC=C2 | C15H16N4O2
